US07550478B2
N,N-dialkyl sulfamides were prepared according to the published procedures: Winum, J-Y; Toupet, L.; Barragan, V.; Dewynter, G.; Montero, J.-L. Org. Letters 2001, 3, 2241-2243 and Casini, A.; Winum, J.-Y.; Montero, J.-L.; Scozzafava, A.; Supuran, C. Bioorganic & Medicinal Chemistry Letters 2003, 13, 837-840. A flask was charged with N-tert-butoxycarbonyl-N-[4-(dimethylazaniumylidene)-1,4-dihydropyridin-1-ylsulfonyl]azanide (500 mg, 1.66 mmol) and methylbenzylamine (0.21 mL, 1.66 mmol) in 10 mL of CH2Cl2. After 2 h, the solution was concentrated in vacuo and purified by flash column chromatography (5-70% EtOAc/hexanes) to afford 304 mg of tert-butyl {[benzyl(methyl)amino]sulfonyl}carbamate.

reactant | N-tert-butoxycarbonyl-N-[4-(dimethylazaniumylidene)-1,4-dihydropyridin-1-ylsulfonyl]azanide | 1.66 mmol, 500 mg | C(C)(C)(C)OC(=O)[N-]S(=O)(=O)N1C=CC(C=C1)=[N+](C)C | C12H19N3O4S
reactant | methylbenzylamine | 1.66 mmol, 0.21 mL | CNCC1=CC=CC=C1 | C8H11N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl {[benzyl(methyl)amino]sulfonyl}carbamate | 304 mg | C(C1=CC=CC=C1)N(S(=O)(=O)NC(OC(C)(C)C)=O)C | C13H20N2O4S
